US05610292
A 500 mL flask was charged with 50 mL methanol, 1.95 g cytidine and 2 g dibutyl tin oxide. The resulting suspension was refluxed for five hours and then stirred at room temperature for twelve hours. To the mixture was then added triethylamine (7.8 mL) followed by slow addition of p-toluenesulfonyl chloride (10.68 g). The resulting mixture was stirred for twelve hours at room temperature. Thereafter, the solvents were evaporated under vacuum and chloroform (100 mL) was added to the resulting white gum. The chloroform/white gum suspension was refluxed for fifteen minutes and then cooled to room temperature. The resulting white precipitate was filtered and washed with chloroform, and dried to yield 1 g of crude 2,2'-O-cyclocytidine hydrochloride. The crude cyclocytidine hydrochloride was suspended in 5 mL water and the mixture was heated to 60° C. This solution was filtered and the solvent reduced under vacuum to obtain a turbid oil. Ethanol (18 mL) was added and the mixture was stirred at 5° C. for twelve hours. The resulting precipitate was filtered and dried to provide 0.6 g of pure 2,2'-O-cyclocytidine hydrochloride (29% yield). The product was characterized by comparison of its melting point, and NMR and IR spectra with those previously reported for 2,2'-O-cyclocytidine.

reactant | methanol | 50 mL | CO | CH4O
reactant | cytidine | 1.95 g | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C(=O)N=C(N)C=C1 | C9H13N3O5
reactant | dibutyl tin oxide | 2 g | C(CCC)[Sn](CCCC)=O
reactant | p-toluenesulfonyl chloride | 10.68 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | triethylamine | 7.8 mL | C(C)N(CC)CC | C6H15N
product | 2,2'-O-cyclocytidine hydrochloride | 1 g | C1=CN2[C@H]3[C@H]([C@@H]([C@H](O3)CO)O)OC2=NC1=N.Cl | InChI=1S/C9H11N3O4.ClH/c10-5-1-2-12-8-7(16-9(12)11-5)6(14)4(3-13)15-8;/h1-2,4,6-8,10,13-14H,3H2;1H/t4-,6-,7+,8-;/m1./s1
